US08563624B2
A mixture of 11.09 g (47 mmol) 3,5-di-tert.butyl-4-hydroxybenzaldehyde, 40 g ammonium formate and 40 mL formamide were stirred and heated to 170° C. for 30 minutes. The mixture was allowed to cool down to room temperature and treated with 100 mL water. The crude N-formyl-3,5-di-tert.butyl-4-hydroxybenzyl-amine precipitated from the mixture, was isolated by filtration, washed with water and dried. The crude N-formyl-3,5-di-tert.butyl-4-hydroxybenzyl-amine was recrystallized from toluene/heptane 1/1. 9.36 g (76%) of N-formyl-3,5-di-tert.butyl-4-hydroxybenzyl-amine was isolated (130-1° C.).

reactant | 3,5-di-tert.butyl-4-hydroxybenzaldehyde | 47 mmol, 11.09 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | ammonium formate | 40 g | C(=O)[O-].[NH4+]
reactant | formamide | 40 mL | C(=O)N | CH3NO
solvent | water | 100 mL | O | H2O
product | N-formyl-3,5-di-tert.butyl-4-hydroxybenzyl-amine | 9.36 g, 76% | C(=O)NCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H25NO2
